US05096890
(A) Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(2,3-dihydrobenzofuran-5-yl)ethyl]pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.33 g-see Preparation 8), 5-(2-bromoethyl)-2,3-dihydrobenzofuran (0.25 g-see Preparation 13), anhydrous potassium carbonate (0.3 g) and acetonitrile (10 ml) was heated under reflux for 2 hours. The mixture was partitioned between dichloromethane (50 ml) and 10% aqueous potassium carbonate (10 ml), the layers were separated, and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to leave a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 8%). The product-containing fractions were combined and concentrated in vacuo to leave an oil which was crystallised from diisopropyl ether to give the title compound as a colourless powder, yield 0.17 g, m.p. 131°-132° C.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.33 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 5-(2-bromoethyl)-2,3-dihydrobenzofuran | 0.25 g | BrCCC=1C=CC2=C(CCO2)C1 | C10H11BrO
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(2,3-dihydrobenzofuran-5-yl)ethyl]pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC=1C=CC2=C(CCO2)C1 | C28H30N2O2
